* c:\users\91809\esim-workspace\7bit_dac\7bit_dac.cir
.options wnflag=1

.include 6bit_DAC.sub
.include switch.sub
x1 vrefh net-_x1-pad2_ d0 d1 d2 d3 d4 d5 vdd net-_x1-pad10_ 6bit_DAC
x2 net-_x1-pad2_ vrefl d0 d1 d2 d3 d4 d5 vdd net-_x2-pad10_ 6bit_DAC
x3 d6 vdd net-_x1-pad10_ net-_x2-pad10_ vout switch
* u1  /vrefh /vrefl /d0 /d1 /d2 /d3 /d4 /d5 /d6 /vdd /vout port

Vdd vdd 0 3.3
Vd0 d0 0 pulse(0 1.8 0ns 1ps 1ps 5us 10us)
Vd1 d1 0 pulse(0 1.8 0ns 1ps 1ps 10us 20us)
Vd2 d2 0 pulse(0 1.8 0ns 1ps 1ps 20us 40us)
Vd3 d3 0 pulse(0 1.8 0ns 1ps 1ps 40us 80us)
Vd4 d4 0 pulse(0 1.8 0ns 1ps 1ps 80us 160us)
Vd5 d5 0 pulse(0 1.8 0ns 1ps 1ps 160us 320us)
Vd6 d6 0 pulse(0 1.8 0ns 1ps 1ps 320us 640us)
Vrefh vrefh 0 3.3
Vrefl vrefl 0 0

.tran 10us 640us


* Control Statements 
.control
run
plot vout
.endc
.end
